US06140330
To a solution of 2-[2-isopropyl-4-(3-carboxyacryloyl)phenoxymethylcarbonylamino]benzothiazole (1.0 g) and triethylamine (0.4 ml) in dichloromethane (20 ml) is added dropwise isobutyl chloroformate (0.32 ml) under ice-cooling. To the mixture is added N-methylpiperazine (0.27 ml) at the same temperature, and the mixture is stirred for 2.5 hours. The reaction solution is washed with water, dried and concentrated under reduced pressure. The residue is purified by silica gel column chromatography (solvent; dichloromethane→dichloromethane:methanol=30:1), and recrystallized from ethanol to give 2-{2-isopropyl-4-[3-(4-methyl-1-piperazinylcarbonyl)acryloyl]phenoxymethylcarbonylamino}benzothiazole (0.80 g).

reactant | 2-[2-isopropyl-4-(3-carboxyacryloyl)phenoxymethylcarbonylamino]benzothiazole | 1.0 g | C(C)(C)C1=C(OCC(=O)NC=2SC3=C(N2)C=CC=C3)C=CC(=C1)C(C=CC(=O)O)=O | C22H20N2O5S
reactant | triethylamine | 0.4 ml | C(C)N(CC)CC | C6H15N
reactant | isobutyl chloroformate | 0.32 ml | ClC(=O)OCC(C)C | C5H9ClO2
reactant | N-methylpiperazine | 0.27 ml | CN1CCNCC1 | C5H12N2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 2-{2-isopropyl-4-[3-(4-methyl-1-piperazinylcarbonyl)acryloyl]phenoxymethylcarbonylamino}benzothiazole | 0.80 g | C(C)(C)C1=C(OCC(=O)NC=2SC3=C(N2)C=CC=C3)C=CC(=C1)C(C=CC(=O)N1CCN(CC1)C)=O | C27H30N4O4S
